US05604218
A mixture of 2-chloro-3-nitropyridine (942 mg, 5.94 mmol), pyrazole (967 mg, 14.2 mmol) and powdered potassium carbonate (2 g) in DM[(10 mL) was stirred vigorously at room temperature for 4 days. The mixture was diluted with water, causing precipitation of a solid, which was filtered and dried, affording 670 mg (63%) of 3-nitro-2-(pyrazol-1-yl)pyridine. 1H NMR (CDCl3) δ6.51 (m, 1), 7.37 (dd, 1 J=5, 8), 7.76 (m, 1) 8.03 (dd, 1, J=2, 8), 8.40 (m, 1), 8.60 (dd, 1, J=2, 5).

reactant | 2-chloro-3-nitropyridine | 5.94 mmol, 942 mg | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | pyrazole | 14.2 mmol, 967 mg | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 3-nitro-2-(pyrazol-1-yl)pyridine | 670 mg, 63% | [N+](=O)([O-])C=1C(=NC=CC1)N1N=CC=C1 | C8H6N4O2
